US07112611B2
Stage 1.2: 4-Cyclopropylmethoxy-benzenesulfonic acid sodium salt
To a suspension of 75 g (323 mmol) of 4-hydroxybenzenesulfonic acid sodium salt in 1350 ml of DMF, 20.67 g (517 mmol) of 60% oil suspended NaH are carefully added portionwise at r.t. To the mixture, 11.93 g (32.3 mmol) of tetrabutylammonium iodide and 50.13 ml (517 mmol) of (bromomethyl)-cyclopropane are added successively. After stirring for 25 h at 60° C., the reaction mixture is cooled to r.t. Precipitates are collected and washed with CH2Cl2 several times, and then recrystalized with mixed solvent (EtOH:H2O=2:1) to give the title compound as a colorless solid.

reactant | 4-hydroxybenzenesulfonic acid sodium salt | 323 mmol, 75 g | [Na+].OC1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | NaH | [H-].[Na+]
reactant | (bromomethyl)-cyclopropane | 517 mmol, 50.13 ml | BrCC1CC1 | C4H7Br
solvent | DMF | 1350 ml | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 32.3 mmol, 11.93 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-Cyclopropylmethoxy-benzenesulfonic acid sodium salt | [Na+].C1(CC1)COC1=CC=C(C=C1)S(=O)(=O)[O-] | InChI=1S/C10H12O4S.Na/c11-15(12,13)10-5-3-9(4-6-10)14-7-8-1-2-8;/h3-6,8H,1-2,7H2,(H,11,12,13);/q;+1/p-1
